US07087601B2
To 20 mL trimethylsilyl polyphosphate was added 2-amino-4-bromophenol (752 mg, 4.00 mmol) and 3-methoxy-4-pyridin-2-ylbenzoic acid (916 mg, 4.00 mmol). The mixture was heated at 200° C. for 2 h, quenched over ice, and made basic (pH 14) with 1N NaOH. The aqueous phase was extracted with MTBE (3×300 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, concentrated in vacuo, and purified by column chromatography (20–50% EtOAc/hexanes) to give 5-bromo-2-(3-methoxy-4-pyridin-2-ylphenyl)-1,3-benzoxazole as a pink solid. 1H NMR (DMSO-d6, 300 MHz) δ 8.71 (d, 1H), 8.10 (d, 1H), 8.00 (t, 1H), 7.97–7.86 (m, 4H), 7.84 (d, 1H), 7.63 (dd, 1H), 7.39 (dt, (s, 3H); MS (ESI) 382 (M+H)+.

reactant | 2-amino-4-bromophenol | 4.00 mmol, 752 mg | NC1=C(C=CC(=C1)Br)O | C6H6BrNO
reactant | 3-methoxy-4-pyridin-2-ylbenzoic acid | 4.00 mmol, 916 mg | COC=1C=C(C(=O)O)C=CC1C1=NC=CC=C1 | C13H11NO3
solvent | trimethylsilyl polyphosphate | 20 mL | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
product | 5-bromo-2-(3-methoxy-4-pyridin-2-ylphenyl)-1,3-benzoxazole | BrC=1C=CC2=C(N=C(O2)C2=CC(=C(C=C2)C2=NC=CC=C2)OC)C1 | C19H13BrN2O2
